US06479495B1
1-[1-(4-Hydroxy-3-methoxyphenyl)ethyl]-4-(2-quinolinyl)piperazine Hemihydrate
A solution of 1-[1-(4-acetoxy-3-methoxyphenyl)ethyl]-4-(2-quinolinyl)piperazine(4.7 g) in 50% sodium hydroxide solution (8 ml) and 50% aqueous ethanol (50 ml) was heated at 50° C. for 24 hrs, under nitrogen. The reaction mixture was diluted with ethyl acetate (150 ml), neutralized with 10% hydrochloric acid and dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated in vacuo. The residue was flash chromatographed (silica gel), eluting with 1% acetone/1% methanol/dichloromethane. The appropriate fractions were collected and concentrated to afford 1.8 g (43%) of product, mp 53-54° C.

reactant | 1-[1-(4-acetoxy-3-methoxyphenyl)ethyl]-4-(2-quinolinyl)piperazine | 4.7 g | C(C)(=O)OC1=C(C=C(C=C1)C(C)N1CCN(CC1)C1=NC2=CC=CC=C2C=C1)OC | C24H27N3O3
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 8 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 1-[1-(4-Hydroxy-3-methoxyphenyl)ethyl]-4-(2-quinolinyl)piperazine Hemihydrate | 1.8 g, 43% | O.OC1=C(C=C(C=C1)C(C)N1CCN(CC1)C1=NC2=CC=CC=C2C=C1)OC.OC1=C(C=C(C=C1)C(C)N1CCN(CC1)C1=NC2=CC=CC=C2C=C1)OC | InChI=1S/2C22H25N3O2.H2O/c2*1-16(18-7-9-20(26)21(15-18)27-2)24-11-13-25(14-12-24)22-10-8-17-5-3-4-6-19(17)23-22;/h2*3-10,15-16,26H,11-14H2,1-2H3;1H2
